US04407927
In 25 ml of anhydrous ethanol were dissolved 17.7 g of p-diethylaminobenzaldehyde and 4.9 g of cyclohexanone, and 10 ml of 10% ethanolic solution of sodium ethoxide was added dropwise to the resulting solution, and the resulting mixture was subjected to reaction under reflux for 12 hours. The reaction mixture thus obtained was cooled, and the crystals thus precipitated were collected by filtration and recrystallized from toluene, to obtain 12.8 g of 2,6-bis(4'-diethylaminobenzal)cyclohexanone (m.p. 167° C.).

reactant | p-diethylaminobenzaldehyde | 17.7 g | C(C)N(C1=CC=C(C=O)C=C1)CC | C11H15NO
reactant | cyclohexanone | 4.9 g | C1(CCCCC1)=O | C6H10O
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2,6-bis(4'-diethylaminobenzal)cyclohexanone | 12.8 g | C(C)N(C1=CC=C(C=C2C(C(CCC2)=CC2=CC=C(C=C2)N(CC)CC)=O)C=C1)CC | C28H36N2O
